US06235731B1
2) Synthesis of N-[1-(2-phenoxyethan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a suspension of 414 mg (0.95 mM) of N-[1-(2-phenoxyethan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (9 ml) was added 1.0 ml (4 mM) of 4N-HCl/methanol and the mixture was stirred at room temperature for 30 minutes. The resulting crystals were collected by filtration and rinsed with ethanol and ether to provide the title compound.

reactant | N-[1-(2-phenoxyethan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.95 mM, 414 mg | O(C1=CC=CC=C1)CCN1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C24H26N4O2S
reactant | HCl methanol | Cl.CO
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | N-[1-(2-phenoxyethan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.O(C1=CC=CC=C1)CCN1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C24H26N4O2S.2ClH/c29-24(21-15-19-17-25-22-7-4-8-23(31-21)28(19)22)26-16-18-9-11-27(12-10-18)13-14-30-20-5-2-1-3-6-20;;/h1-8,15,17-18H,9-14,16H2,(H,26,29);2*1H
